US06352982B1
A solution of N-tert-butoxycarbonyl-3-bromophenethylamine (1.7 g) and N-methyl-N-methyloxy-2-amino-5-chloro-benzamide (1.9 g) in tetrahydrofuran (50 ml) was cooled to -70° C. To the solution was added dropwise, while stirring, a hexane solution of n-butyl lithium (1.6 mol/L) (18 ml). To the reaction mixture were added water (100 ml) and ethyl acetate (80 ml). The mixture was shaken. The organic layer was separated, which was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography to give 2-amino-3′-(2-tert-butoxycarbonylaminoethyl)-5-chloro-benzophenone (1.5 g) as a yellow crystalline product. m.p.: 128-129° C.

reactant | N-tert-butoxycarbonyl-3-bromophenethylamine | 1.7 g | C(C)(C)(C)OC(=O)NCCC1=CC(=CC=C1)Br | C13H18BrNO2
reactant | N-methyl-N-methyloxy-2-amino-5-chloro-benzamide | 1.9 g | CN(C(C1=C(C=CC(=C1)Cl)N)=O)OC | C9H11ClN2O2
reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | 1.6 mol/L, 18 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 2-amino-3′-(2-tert-butoxycarbonylaminoethyl)-5-chloro-benzophenone | 1.5 g | NC1=C(C(=O)C2=CC(=CC=C2)CCNC(=O)OC(C)(C)C)C=C(C=C1)Cl | C20H23ClN2O3
